US08557983B2
4-(tert-butyldimethylsilyloxy)-6-fluoro-1H-indazole
6-Fluoro-1H-indazol-4-ol (0.91 g) in tetrahydrofuran (20 mL) was treated with 60% sodium hydride (0.251 g). After 10 minutes, tert-butylchlorodimethylsilane (0.992 g) was added. The solution was stirred for 16 hours. The solvent was removed, and the residue was purified by flash column chromatography on silica gel to give the title compound.

reactant | 6-Fluoro-1H-indazol-4-ol | 0.91 g | FC=1C=C(C=2C=NNC2C1)O | C7H5FN2O
reactant | sodium hydride | 0.251 g | [H-].[Na+]
reactant | tert-butylchlorodimethylsilane | 0.992 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(tert-butyldimethylsilyloxy)-6-fluoro-1H-indazole | [Si](C)(C)(C(C)(C)C)OC1=C2C=NNC2=CC(=C1)F | C13H19FN2OSi
